US09290451B2
6-(4-Chloro-phenyl)-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide
The title compound was synthesized in analogy to Example 1, using 6-(4-chlorophenyl)-2-pyridinecarboxylic acid (CAN 135432-77-8) and α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine (CAN 1153831-97-0) as starting materials, MS (LC/MS): 357.1 (M+H).

reactant | 6-(4-chlorophenyl)-2-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C1=CC=CC(=N1)C(=O)O | C12H8ClNO2
reactant | α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine | CC(N)(C1=NOC(=N1)C)C | C6H11N3O
product | 6-(4-Chloro-phenyl)-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide | CC(C)(C1=NOC(=N1)C)NC(=O)C1=NC(=CC=C1)C1=CC=C(C=C1)Cl | C18H17ClN4O2
